US07589206B2
i) N-(3-chlorophenyl)-7-(4-morpholinylcarbonyl)-1H-pyrrolo[3,2-c]pyridin-4-amine formate
A solution of 4-[(3-chlorophenyl)amino]-1H-pyrrolo[3,2-c]pyridine-7-carboxylic acid (175 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (140 mg), 1-hydroxybenzotriazole hydrate (108 mg), morpholine (106 ul) and N-ethylmorpholine (309 ul) in dimethylformamide (3 ml) was stirred under argon over night. The reaction mixture was diluted with diethyl ether and washed with water. The aqueous layer was acidified with an aqueous 2M hydrochloric acid solution and then extracted three times with diethyl ether. The combined organic layers were washed with brine, dried (MgSO4) and evaporated to afford a brown oil. Purification by MDAP afforded the title compound as a clear oil (86 mg).

reactant | 4-[(3-chlorophenyl)amino]-1H-pyrrolo[3,2-c]pyridine-7-carboxylic acid | 175 mg | ClC=1C=C(C=CC1)NC1=NC=C(C2=C1C=CN2)C(=O)O | C14H10ClN3O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 140 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole hydrate | 108 mg | O.ON1N=NC2=C1C=CC=C2
reactant | morpholine | 106 ul | N1CCOCC1 | C4H9NO
reactant | N-ethylmorpholine | 309 ul | C(C)N1CCOCC1 | C6H13NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-(3-chlorophenyl)-7-(4-morpholinylcarbonyl)-1H-pyrrolo[3,2-c]pyridin-4-amine formate | 86 mg | C(=O)O.ClC=1C=C(C=CC1)NC1=NC=C(C2=C1C=CN2)C(=O)N2CCOCC2 | InChI=1S/C18H17ClN4O2.CH2O2/c19-12-2-1-3-13(10-12)22-17-14-4-5-20-16(14)15(11-21-17)18(24)23-6-8-25-9-7-23;2-1-3/h1-5,10-11,20H,6-9H2,(H,21,22);1H,(H,2,3)
